US07338958B2
j) Production of (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)oxy]-butan-2-ol
A solution of 1.35 g (15.0 mmol) of (R,R)-(−)-2,3-butanediol in 50 ml of THF is mixed at 0° C. in portions with 480 mg (11.0 mmol) of sodium hydride (55% dispersion) and then stirred for 10 minutes at room temperature. The solution that is produced is added at 0° C. to 2.27 g (10.0 mmol) of 5-bromo-2,4-dichloropyrimidine in 25 ml of THF. The batch is slowly heated to room temperature and stirred for 12 hours. The solvent is drawn off, and the residue that is obtained is purified by chromatography (hexane/ethyl acetate 1:1). 2.29 g (8.1 mmol, corresponding to 81% of theory) of the product is obtained.

reactant | (R,R)-(−)-2,3-butanediol | 15.0 mmol, 1.35 g | C[C@H]([C@@H](C)O)O | C4H10O2
reactant | sodium hydride | 11.0 mmol, 480 mg | [H-].[Na+]
reactant | 5-bromo-2,4-dichloropyrimidine | 10.0 mmol | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)oxy]-butan-2-ol | BrC=1C(=NC(=NC1)Cl)O[C@@H]([C@@H](C)O)C | C8H10BrClN2O2
